US08084643B2
Amino-acetic acid 2-(2,2-dichloro-acetylamino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propyl ester
By following the general procedures II and III using 12.9 g of florfenicol and 6.9 g of N-Boc glycine, the prodrug (13.2 g, 80% yield) was obtained as white powder after the crude solids were dried under reduced pressure at 50° C. for 6 days; H1-NMR (DMSO-d6), δ=3.2 ppm (m, 3H), 3.9 ppm (s, 2H), 4.3-4.7 ppm (m, 3H), 6.1 ppm (s, 1H), 6.8 ppm (s, 1H), 7.7 ppm (d, 2H), 7.9 ppm (d, 2H), 8.6 ppm (br, 3H), 9.4 ppm (d, 1H).

reactant | florfenicol | 12.9 g | CS(=O)(=O)C=1C=CC(=CC1)[C@H]([C@@H](CF)NC(=O)C(Cl)Cl)O | C12H14Cl2FNO4S
reactant | N-Boc glycine | 6.9 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
product | Amino-acetic acid 2-(2,2-dichloro-acetylamino)-3-fluoro-1-(4-methanesulfonyl-phenyl)-propyl ester | 80% yield | ClC(C(=O)NC(C(C1=CC=C(C=C1)S(=O)(=O)C)OC(CN)=O)CF)Cl | C14H17Cl2FN2O5S
